US07842685B2
A solution of 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropanamine (0.108 g, 0.270 mmol) in methylene chloride (1.3 mL) was added di-tert-butyl dicarbonate (0.088 g, 0.4 mmol) and triethylamine (0.053 mL, 0.37 mmol) and heated at 50° C. for 6 h. The cooled reaction mixture was diluted with methylene chloride and washed with aqueous saturated sodium bicarbonate solution and brine. The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. Flash column chromatography with 10% to 20% ethyl acetate/hexanes afforded tert-butyl 1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropylcarbamate as a yellow amorphous solid. MS (ESI) m/z: Calculated: 501.6; Observed: 502.1 (M++1).

reactant | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropanamine | 0.270 mmol, 0.108 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)N | C24H20FN3S
reactant | di-tert-butyl dicarbonate | 0.4 mmol, 0.088 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.37 mmol, 0.053 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1.3 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)cyclopropylcarbamate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)NC(OC(C)(C)C)=O | C29H28FN3O2S
